US07067663B2
Step 1: 4,6-Dihydroxy-2-(propylsulfanyl)pyrimidine.
Water (670 ml) was added to 2-thiobarbituric acid (200 g). The resulting mixture was stirred and sodium hydroxide (126.3 g) was added in portions. The mixture was stirred for 40 min. then diluted with water. 1-Methyl-2-pyrrolidinone (400 ml) and 1-iodopropane (140.9 ml) were then added. The resulting slurry was stirred at 20° C. for 22 h. The pH of the mixture was then adjusted to 6.5 by addition of 1M HCl (600 ml) over 30 min, then to pH 2.5 by the addition of 6 M HCl (180 ml) over a further 30 min. The resulting slurry was stirred for 18 h and the product was isolated by filtration and washed successively with water (4×100 ml), ethanol (200 ml) and water (2×200 ml). The product was dried under reduced pressure overnight at 50° C. to yield the title product as a white powder (185 g).

reactant | 2-thiobarbituric acid | 200 g | N1C(=S)NC(=O)CC1=O | C4H4N2O2S
reactant | sodium hydroxide | 126.3 g | [OH-].[Na+]
reactant | 1-iodopropane | 140.9 ml | ICCC | C3H7I
reactant | HCl | 1M, 600 ml | Cl | ClH
reactant | HCl | 6 M, 180 ml | Cl | ClH
solvent | water | O | H2O
solvent | Water | 670 ml | O | H2O
solvent | 1-Methyl-2-pyrrolidinone | 400 ml | CN1C(CCC1)=O | C5H9NO
product | 4,6-Dihydroxy-2-(propylsulfanyl)pyrimidine | 185 g | OC1=NC(=NC(=C1)O)SCCC | C7H10N2O2S
